US08975254B2
e) 2-chloro-6-fluoro-4-(1H-pyrazol-5-yl)benzonitrile
2-Chloro-6-fluoro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile (1.09 g, 3.55 mmol) was stirred with 10% HCl (g)/EtOH-solution (50 ml) at room temperature for 1 h. Reaction mixture was poured into water (50 ml) and made slightly alkaline with saturated NaHCO3 solution. Thus resulting precipitate was filtered, washed with water and dried in vacuum to obtain 0.74 g (94%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 7.06 (d, 1H), 7.94 (dd, 1H), 8.05 (m, 1H), 13.4 (bs, 1H).

reactant | 2-Chloro-6-fluoro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile | 3.55 mmol, 1.09 g | ClC1=C(C#N)C(=CC(=C1)C1=CC=NN1C1OCCCC1)F | C15H13ClFN3O
reactant | HCl | Cl | ClH
reactant | EtOH | 50 ml | CCO | C2H6O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 50 ml | O | H2O
product | 2-chloro-6-fluoro-4-(1H-pyrazol-5-yl)benzonitrile | 0.74 g, 94% | ClC1=C(C#N)C(=CC(=C1)C1=CC=NN1)F | C10H5ClFN3
